US20010056090A1
Synthesis of 3(R)-Benzyloxycarbonylamino-piperidine-1-carboxylic Acid Tert-Butyl Ester
To a solution of piperidine-1,3-dicarboxylic acid 1-tert butyl ester (1.23 g, 5.37 mmol) in THF (40 ml) at 0° C. was added Et3N (1.90 ml, 13.4 mmol), isobutylchloroformate (1.40 ml, 10.74 mmol). After 1 hr of stirring, sodium azide (6.28 g, 96.7 mmol) in water (21 ml) was added and the reaction mixture stirred for 30 min. EtOAc (80 ml) was added. The organic layer was separated, washed with water, dried (Na2SO4), filtered and concentrated in vacuo. The IR (film) of the crude acyl azide had an absorption at 2137(N3), 1693(C═O) cm−1. The crude residue was dissolved in dry benzene (100 ml) and heated at 60° C. for 70 min. After removal of benzene, the IR of the crude isocyanate (film) 2994, 2865, 2263, 1698, 1422, 1377, 1241, 1169 cm−1; The crude mixture was dissolved in toluene (10 ml), BnOH (0.7 ml) was added. The mixture was heated at 110° C. for 48 hr (monitored by IR until the absorption at 2263cm−1 completely disappeared). After removal of the solvent, the residue was purified by silica gel chromatography (20% EtOAc in hexane) to give a colorless oil (1.02 g, 57% for three steps). 1H-NMR (300 MHz, CDCl3) δ 7.20 (m, 5H), 5.15 (s, 2H), 4.90 (broad s, 1H), 3.75 (broad s, 1H), 3.60 (m, 1H), 3.40-3.20 (m, 3H), 2.85 (m, 1H), 1.78-1.50 (m, 2H), 1.45 (s, 9H) ppm; IR (film) 3321, 2979, 2858, 1692 (with two shoulders), 1540, 1431, 1234, 1154 cm−1; LRMS (calculated for C18H21N2O4) 334, found (M-BOC)+ 234, (M-BOC+1)+ 235.

reactant | piperidine-1,3-dicarboxylic acid 1-tert butyl ester | 5.37 mmol, 1.23 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | Et3N | 13.4 mmol, 1.90 ml | CCN(CC)CC | C6H15N
reactant | isobutylchloroformate | 10.74 mmol, 1.40 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | sodium azide | 96.7 mmol, 6.28 g | [N-]=[N+]=[N-].[Na+]
reactant | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 21 ml | O | H2O
solvent | EtOAc | 80 ml | CCOC(=O)C | C4H8O2
product | 3(R)-Benzyloxycarbonylamino-piperidine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC(=O)OCC1=CC=CC=C1 | C18H26N2O4
